US07498460B2
Methyl 1-[5-(methoxycarbonyl)-2-nitrobenzoyl]-4-piperidinecarboxylate is prepared in analogy to the process described in Example IX from 5-(methoxycarbonyl)-2-nitrobenzoic acid and methyl piperidine-4-carboxylate hydrochloride.

reactant | 5-(methoxycarbonyl)-2-nitrobenzoic acid | COC(=O)C=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C9H7NO6
reactant | methyl piperidine-4-carboxylate hydrochloride | Cl.N1CCC(CC1)C(=O)OC
product | Methyl 1-[5-(methoxycarbonyl)-2-nitrobenzoyl]-4-piperidinecarboxylate | COC(=O)C=1C=CC(=C(C(=O)N2CCC(CC2)C(=O)OC)C1)[N+](=O)[O-] | C16H18N2O7
